US08378104B2
Step B: 2-(4-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanol (Title Compound)
4-{1-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)piperidin-4-yl]-1H-pyrazol-4-yl}-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine (60.8 mg, 0.112 mmol) was dissolved in THF (1.2 mL) and tetra-n-butylammonium fluoride (1.0 M in THF, 1.35 mL, 1.35 mmol) was added to the reaction. The reaction stirred 16 h at RT. The reaction was washed with sodium carbonate (2×), brine 2× and extracted with EtOAc (3×). The organic layers were collected, dried with sodium sulfate, filtered and then concentrated in vacuo to a solid. Purification by flash chromatography (0 to 15% NH3/MeOH:EtOAc) afforded 10.1 mg (34%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 9.32 (s, 1 H), 8.54-8.58 (m, 1 H), 8.49 (d, J=6.32 Hz, 1 H), 8.34 (dd, J=7.33, 1.01 Hz, 2 H), 8.23 (d, J=8.08 Hz, 1 H), 8.13 (s, 1 H), 7.91 (d, J=7.07 Hz, 1 H), 7.81 (dd, J=8.08, 7.33 Hz, 1 H), 7.49 (s, 1 H), 4.18-4.32 (m, 1 H), 3.71 (t, J=6.06 Hz, 2 H), 3.14 (d, J=12.13 Hz, 2 H), 2.60 (t, J=6.06 Hz, 2 H), 2.25-2.36 (m, 2 H), 2.12-2.24 (m, 4 H); MS (ESI): 455.21 [M+H]+; HPLC tR=0.74 min (TOF: polar—3 min).

reactant | 4-{1-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)piperidin-4-yl]-1H-pyrazol-4-yl}-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine | 0.112 mmol, 60.8 mg | [Si](C)(C)(C(C)(C)C)OCCN1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C2=C1C=CN=CC1=CC=C2 | C32H40N6O2Si
reactant | tetra-n-butylammonium fluoride | 1.35 mmol, 1.0 M, 1.35 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 2-(4-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanol | 10.1 mg, 34% | NC=1N=CC(=C2C1OC(=C2)C2=C1C=CN=CC1=CC=C2)C=2C=NN(C2)C2CCN(CC2)CCO | C26H26N6O2
